US05459138
EXAMPLE 9: 2-PENTYL-2,3-DIHYDRO-4H-PYRIDO[4,3-e] [1,2,4]THIADIAZINE 1,1-DIOXIDE
A mixture of 0.5 g of N-pentyl-4-aminopyridine-3- sulfonamide (Preparation 9) and 0.5 g of paraformaldehyde in 15 cm3 of isopropanol to which 50 drops of ethyl acetate saturated with gaseous HCl have been added is brought to reflux for 48 hours. After this lapse of time, the solvent is removed under partial vacuum. The residue is suspended in 20 cm3 of 0.1N NaOH. After stirring for 1 hour at ambient temperature, the insoluble material is collected on a filter, washed with water and recrystallized twice from a methanol/water (1/2) mixture and then once from CHCl3 /petroleum ether (40°-60° C.) (1/1).

reactant | N-pentyl-4-aminopyridine-3- sulfonamide | 0.5 g | C(CCCC)NS(=O)(=O)C=1C=NC=CC1N | C10H17N3O2S
reactant | paraformaldehyde | 0.5 g | C=O | CH2O
reactant | HCl | Cl | ClH
solvent | isopropanol | 15 cm3 | C(C)(C)O | C3H8O
catalyst | ethyl acetate | 50 drops | C(C)(=O)OCC | C4H8O2
product | 2-PENTYL-2,3-DIHYDRO-4H-PYRIDO[4,3-e] [1,2,4]THIADIAZINE 1,1-DIOXIDE | C(CCCC)N1S(C2=C(NC1)C=CN=C2)(=O)=O | C11H17N3O2S
